US04526720
Dexamethasone (9α-fluoro-11β,17α,21-trihydroxy-16α-methylpregna-1,4-diene-3,20-dione) can also be prepared from 17β-hydroxy-16-methylenepregna-1,4,9(11)-triene-3,20-dione by first transforming it to 17α,21-dihydroxy-16-methylenepregna-1,4,9(11)-triene-3,20-dione 21-acetate as described above and next transforming it to 17α,21-dihydroxy-16α-methylpregna-1,4,9(11)-triene-3,20-dione 21-acetate by the process of U.S. Pat. No. 3,130,209. 17α,21-Dihydroxy-16α-methylpregna-1,4,9(11)-triene-3,20-dione 21-acetate is then epoxidized by means well known to those skilled in the art, see for example U.S. Pat. No. 3,980,778, Examples 2 and 7 to produce 9β,11β-epoxy-17α,21-dihydroxy-16α-methylpregna-1,4-diene-3,20-dione which is transformed to dexamethasone 21-acetate by the process of U.S. Pat. No. 3,007,932, Example 2.

reactant | Dexamethasone | C[C@@H]1C[C@H]2[C@@H]3CCC4=CC(=O)C=C[C@@]4([C@]3([C@H](C[C@@]2([C@]1(C(=O)CO)O)C)O)F)C | C22H29FO5
reactant | 17β-hydroxy-16-methylenepregna-1,4,9(11)-triene-3,20-dione | O[C@@]1(C(C)=O)C(C[C@H]2[C@@H]3CCC4=CC(C=C[C@]4(C)C3=CC[C@]12C)=O)=C | C22H26O3
product | 9β,11β-epoxy-17α,21-dihydroxy-16α-methylpregna-1,4-diene-3,20-dione | O1[C@]23[C@]4(C=CC(C=C4CC[C@H]2[C@@H]2C[C@H]([C@](C(CO)=O)([C@]2(C[C@@H]31)C)O)C)=O)C | C22H28O5
